US04469696
7 g (15 millimol) of 4,5-bis-(4-methoxyphenyl)-6-methyl-2-(4-phenylpiperazino)-3,4-dihydropyridine were suspended in 150 ml of analytically pure dimethylsulphoxide, whilst stirring, and 1.7 g (15 millimol) of potassium tert.-butylate were added to the suspension. The mixture was stirred in a closed vessel until a clear, orange-red coloration had formed. The reaction solution was then stirred in an open reaction flask for 1 hour. After the reaction solution had been neutralised with glacial acetic acid, the colourless precipitate which had separated out was filtered off under suction, washed with methanol and dried in vacuo to obtain 4,5-bis-(4-methoxyphenyl)-6-methyl-2-(4-phenylpiperazino)-pyridine.

reactant | 4,5-bis-(4-methoxyphenyl)-6-methyl-2-(4-phenylpiperazino)-3,4-dihydropyridine | 15 millimol, 7 g | COC1=CC=C(C=C1)C1CC(=NC(=C1C1=CC=C(C=C1)OC)C)N1CCN(CC1)C1=CC=CC=C1 | C30H33N3O2
reactant | dimethylsulphoxide | CS(=O)C | C2H6OS
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4,5-bis-(4-methoxyphenyl)-6-methyl-2-(4-phenylpiperazino)-pyridine | Yield 69% | COC1=CC=C(C=C1)C1=CC(=NC(=C1C1=CC=C(C=C1)OC)C)N1CCN(CC1)C1=CC=CC=C1 | C30H31N3O2
